US05399568
1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-1-(3-pyridyl)methanol.
A solution of ethyl 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate (33.0g, 88.4 mmol) in tetrahydrofuran (50 mL) was added dropwise to a suspension of lithium aluminum hydride (4.70 g, 123.8 mmol) in tetrahydrofuran (70 mL) held at reflux temperature. Upon complete addition, the mixture was held at reflux for 2 h, then was cooled to 0° C. and treated sequentially with 10% aqueous sodium hydroxide (4.7 mL), water (4.7 mL) and 10% aqueous sodium hydroxide (14.1 mL). The resulting white slurry was stirred for 30 minutes, treated with diatomaceous earth (25 g) and filtered through a pad of diatomaceous earth. The filter cake was washed with tetrahydrofuran/methanol (20:1, 2×200 mL). The filtrate was evaporated to give the title compound as a tan solid (23.5 g, 77.0 mmol, 87%) 1H NMR (d6-DMSO): δ7.25 (m, 2H), 7.18 (m, 2H), 4.38 (t, J=5.2 Hz, 1H, CH2OH), 4.29 (s, 1H, H--C(10)), 3.32 (s, 2H, CH2N), 3.21 (m, 2H, CH2OH), 2.97 (d, J=11.2 Hz, 2H, eq-H--C(2')), 2.44 (s, 2H, H--C(11)), 2.14 (dd, J=11.2, 11.2 Hz, ax-H--C(2')), 1.58 (d, J=11.0 Hz, eq-H--C(3')), 1.34 (m, 1H, H--C(4')), 1.10 (ddd, J=3.5, 11.0, 11.2 Hz, 2H, ax-H--C(3')).

reactant | ethyl 1-(9,10-dihydro-9,10-methanoanthracen-9-ylcarbonyl)-4-piperidine carboxylate | 88.4 mmol, 33.0g | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)C(=O)N3CCC(CC3)C(=O)OCC | C24H25NO3
reactant | lithium aluminum hydride | 123.8 mmol, 4.70 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 4.7 mL | [OH-].[Na+]
reactant | water | 4.7 mL | O | H2O
reactant | sodium hydroxide | 14.1 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 1-[1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidyl]-1-(3-pyridyl)methanol | 77.0 mmol, 23.5 g, 87% | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)C(O)C=3C=NC=CC3 | C27H28N2O
